*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:51:25 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "SDFFNSRXL"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  SDFFNSRXL CKN QN SE SN SI RN D Q
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET CKN 2.21545e-16
*|P (CKN X 0 6.3000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 6.3925 0.5075)
*|I (Mmp20:g Mmp20 g X 0 6.5375 1.1975)
*|S (CKN:2 6.3550 0.8550)
C1 Mmp20:g VSS 5.31603e-17
C2 Mmn20:g VSS 3.18451e-17
C3 CKN:2 VSS 7.92098e-17
C4 CKN VSS 5.73297e-17
Rl1 CKN:2 Mmn20:g 91.540520 $W=0.039
Rl2 Mmp20:g CKN:2 114.183083 $W=0.039
Rk3 CKN:2 CKN 45.166481 $W=0.08
*
*|NET QN 8.54488e-17
*|P (QN X 0 0.1000 0.6650)
*|I (Mmn57:d Mmn57 d X 0 0.3175 0.5875)
*|I (Mmp57:d Mmp57 d X 0 0.3175 1.0075)
*|S (QN:3 0.2950 0.6000)
C5 Mmp57:d VSS 1.97577e-17
C6 Mmn57:d VSS 4.27257e-17
C7 QN VSS 2.29654e-17
Rk4 QN:3 QN 0.092880 $W=0.13
Rk5 Mmn57:d QN:3 75.000000 $W=0.1
Rk6 Mmp57:d QN:3 62.224846 $W=0.1
*
*|NET SE 5.41769e-16
*|P (SE X 0 7.7000 0.6645)
*|I (Mmn14:g Mmn14 g X 0 7.3175 0.5075)
*|I (Mmn10:g Mmn10 g X 0 7.6375 0.5075)
*|I (Mmp12:g Mmp12 g X 0 6.9125 1.1975)
*|I (Mmp10:g Mmp10 g X 0 7.7125 1.1975)
*|S (SE:1 7.1150 0.9900)
*|S (SE:4 7.2800 0.7250)
*|S (SE:6 7.6750 0.6850)
*|S (SE:8 7.6750 0.6850)
C8 Mmp10:g VSS 5.03188e-17
C9 Mmp12:g VSS 5.16821e-17
C10 Mmn10:g VSS 2.71509e-17
C11 Mmn14:g VSS 6.72141e-17
C12 SE:1 VSS 9.78001e-17
C13 SE:4 VSS 1.27928e-16
C14 SE:6 VSS 1.19676e-16
Rl7 Mmn14:g SE:4 86.540520 $W=0.039
Rl8 SE:6 Mmn10:g 28.296703 $W=0.039
Rl9 SE:1 Mmp12:g 108.224625 $W=0.039
Rl10 Mmp10:g SE:6 144.230759 $W=0.039
Rk11 SE:1 SE:4 0.265736 $W=0.08
Rk12 SE:8 SE 0.012790 $W=0.12
Rk13 SE:6 SE:8 45.000000 $W=0.08
Rk14 SE:4 SE:8 0.276549 $W=0.08
*
*|NET SN 8.63452e-16
*|P (SN X 0 2.3000 1.0450)
*|I (Mmn50:g Mmn50 g X 0 2.3525 0.5425)
*|I (Mmn30:g Mmn30 g X 0 4.8325 0.5025)
*|I (Mmp50:g Mmp50 g X 0 2.4125 1.0925)
*|I (Mmp30:g Mmp30 g X 0 4.8325 1.0625)
*|S (SN:2 2.3525 0.8850)
*|S (SN:3 2.2900 0.8850)
*|S (SN:6 4.7450 1.3350)
C15 Mmp30:g VSS 5.74178e-17
C16 Mmp50:g VSS 3.38024e-17
C17 Mmn30:g VSS 6.58594e-17
C18 Mmn50:g VSS 4.95323e-17
C19 SN:2 VSS 2.43589e-17
C20 SN:3 VSS 5.82042e-17
C21 SN:6 VSS 3.04332e-16
C22 SN VSS 2.69945e-16
Rl15 SN:2 SN:3 50.494637 $W=0.094
Rl16 SN:2 Mmn50:g 89.592499 $W=0.039
Rl17 Mmp50:g SN:2 36.553272 $W=0.039
Rl18 Mmp30:g SN:6 104.592575 $W=0.039
Rl19 Mmp30:g Mmn30:g 146.153839 $W=0.039
Rk20 SN:6 SN 2.073495 $W=0.08
Rk21 SN SN:3 0.103482 $W=0.09
*
*|NET SI 2.88463e-16
*|P (SI X 0 7.7000 1.0450)
*|I (Mmn13:g Mmn13 g X 0 7.4225 0.5075)
*|I (Mmp13:g Mmp13 g X 0 7.4475 1.1975)
*|S (SI:2 7.4750 0.8850)
C23 Mmp13:g VSS 4.73241e-17
C24 Mmn13:g VSS 7.58541e-17
C25 SI:2 VSS 8.81655e-17
C26 SI VSS 7.71195e-17
Rl22 SI:2 Mmn13:g 109.940254 $W=0.039
Rl23 Mmp13:g SI:2 66.076385 $W=0.039
Rk24 SI SI:2 45.187107 $W=0.1
*
*|NET RN 2.21279e-16
*|P (RN X 0 1.5000 0.7900)
*|I (Mmn22:g Mmn22 g X 0 1.4675 0.4425)
*|I (Mmp22:g Mmp22 g X 0 1.4675 1.2325)
*|S (RN:2 1.4950 0.7800)
*|S (RN:4 1.4950 0.7800)
C27 Mmp22:g VSS 3.84681e-17
C28 Mmn22:g VSS 4.28766e-17
C29 RN:2 VSS 4.08156e-17
C30 RN VSS 9.91187e-17
Rl25 RN:2 Mmn22:g 89.153305 $W=0.039
Rl26 Mmp22:g RN:2 119.922546 $W=0.039
Rk27 RN:4 RN 0.004839 $W=0.13
Rk28 RN:2 RN:4 45.000000 $W=0.13
*
*|NET D 2.16366e-16
*|P (D X 0 6.7000 1.0450)
*|I (Mmn11:g Mmn11 g X 0 6.7425 0.5075)
*|I (Mmp11:g Mmp11 g X 0 6.7425 1.1975)
*|S (D:2 6.7050 0.8450)
C31 Mmp11:g VSS 4.68944e-17
C32 Mmn11:g VSS 2.71453e-17
C33 D:2 VSS 7.64247e-17
C34 D VSS 6.59011e-17
Rl29 D:2 Mmn11:g 87.694366 $W=0.039
Rl30 Mmp11:g D:2 80.002060 $W=0.039
Rk31 D:2 D 45.088516 $W=0.13
*
*|NET Q 1.74081e-16
*|P (Q X 0 0.9000 1.2350)
*|I (Mmn55:d Mmn55 d X 0 1.1550 0.4425)
*|I (Mmp55:d Mmp55 d X 0 1.1550 1.2325)
*|S (Q:2 1.0650 1.2350)
C35 Mmn55:d VSS 8.29098e-17
C36 Q:2 VSS 6.39461e-17
C37 Q VSS 2.72249e-17
Rk32 Q:2 Q 0.078877 $W=0.13
Rk33 Q:2 Mmn55:d 75.502022 $W=0.1
Rk34 Mmp55:d Q:2 62.038593 $W=0.125
*
*|NET qint 2.07218e-16
*|I (Mmn57:g Mmn57 g X 0 0.4225 0.5875)
*|I (Mmn56:d Mmn56 d X 0 0.7200 0.5875)
*|I (Mmp57:g Mmp57 g X 0 0.4225 1.0075)
*|I (Mmp56:d Mmp56 d X 0 0.7200 1.0075)
*|S (qint:1 0.4850 0.7650)
*|S (qint:2 0.4225 0.7650)
*|S (qint:6 0.7200 0.7750)
C38 Mmp56:d VSS 2.54137e-17
C39 Mmp57:g VSS 3.11966e-17
C40 Mmn56:d VSS 2.9431e-17
C41 Mmn57:g VSS 2.73617e-17
C42 qint:6 VSS 2.25757e-17
C43 qint:2 VSS 1.33267e-17
C44 qint:1 VSS 5.79123e-17
Rl35 qint:1 qint:2 47.021347 $W=0.094
Rl36 qint:2 Mmn57:g 36.252586 $W=0.039
Rl37 qint:2 Mmp57:g 47.791046 $W=0.039
Rk38 qint:6 qint:1 0.119424 $W=0.1
Rk39 qint:6 Mmn56:d 75.108788 $W=0.1
Rk40 Mmp56:d qint:6 62.114796 $W=0.1
*
*|NET qbint 7.63786e-16
*|I (Mmn56:g Mmn56 g X 0 0.6275 0.5875)
*|I (Mmn55:g Mmn55 g X 0 1.2475 0.4425)
*|I (Mmn45:d Mmn45 d X 0 1.9825 0.5425)
*|I (Mmn52:g Mmn52 g X 0 2.7425 0.5425)
*|I (Mmp56:g Mmp56 g X 0 0.6275 1.0075)
*|I (Mmp55:g Mmp55 g X 0 1.2475 1.2325)
*|I (Mmp45:d Mmp45 d X 0 2.0550 1.0925)
*|I (Mmp52:g Mmp52 g X 0 2.6675 1.0925)
*|S (qbint:2 1.2475 0.7375)
*|S (qbint:3 0.6275 0.7375)
*|S (qbint:5 1.2750 0.6250)
*|S (qbint:10 2.4950 0.3450)
*|S (qbint:11 1.9600 0.3450)
*|S (qbint:13 1.9600 0.5300)
C45 Mmp52:g VSS 6.08167e-17
C46 Mmp45:d VSS 6.86266e-17
C47 Mmp55:g VSS 4.27095e-17
C48 Mmp56:g VSS 2.82168e-17
C49 Mmn52:g VSS 5.79521e-17
C50 Mmn45:d VSS 4.49483e-17
C51 Mmn55:g VSS 2.44478e-17
C52 Mmn56:g VSS 2.07847e-17
C53 qbint:11 VSS 1.19339e-16
C54 qbint:3 VSS 4.52006e-17
C55 qbint:2 VSS 3.55733e-17
C56 qbint:5 VSS 1.35571e-16
C57 qbint:10 VSS 7.95993e-17
Rl41 qbint:2 qbint:5 28.771458 $W=0.039
Rl42 qbint:2 qbint:3 224.362991 $W=0.039
Rl43 qbint:3 Mmn56:g 28.079685 $W=0.039
Rl44 qbint:5 Mmn55:g 29.537926 $W=0.039
Rl45 Mmn52:g qbint:10 156.051514 $W=0.039
Rl46 qbint:3 Mmp56:g 60.771992 $W=0.039
Rl47 Mmp55:g qbint:2 147.310455 $W=0.039
Rl48 Mmp52:g Mmn52:g 153.411804 $W=0.039
Rk49 qbint:10 qbint:11 0.377235 $W=0.09
Rk50 qbint:11 qbint:5 45.816280 $W=0.08
Rk51 qbint:11 qbint:13 0.108091 $W=0.1
Rk52 Mmn45:d qbint:13 75.000000 $W=0.0985
Rk53 qbint:13 Mmp45:d 62.409317 $W=0.09
*
*|NET RNb 9.19275e-16
*|I (Mmn22:d Mmn22 d X 0 1.6100 0.4425)
*|I (Mmn51:g Mmn51 g X 0 2.9475 0.5425)
*|I (Mmn31:g Mmn31 g X 0 4.3625 0.5025)
*|I (Mmp22:d Mmp22 d X 0 1.5600 1.2325)
*|I (Mmp51:g Mmp51 g X 0 2.8475 1.0925)
*|I (Mmp31:g Mmp31 g X 0 4.3625 1.0625)
*|S (RNb:3 2.8100 1.4400)
*|S (RNb:5 4.1900 1.3650)
*|S (RNb:8 1.5700 1.2800)
C58 Mmp31:g VSS 5.70539e-17
C59 Mmp51:g VSS 4.61039e-17
C60 Mmp22:d VSS 1.505e-16
C61 Mmn31:g VSS 5.30499e-17
C62 Mmn51:g VSS 6.34731e-17
C63 Mmn22:d VSS 1.09604e-16
C64 RNb:3 VSS 2.55634e-16
C65 RNb:5 VSS 1.83856e-16
Rl54 Mmp51:g RNb:3 123.078979 $W=0.039
Rl55 Mmn51:g Mmp51:g 163.027176 $W=0.039
Rl56 Mmp31:g RNb:5 154.128448 $W=0.039
Rl57 Mmp31:g Mmn31:g 146.153839 $W=0.039
Rk58 RNb:5 RNb:3 1.076465 $W=0.08
Rk59 RNb:3 RNb:8 0.972916 $W=0.08
Rk60 RNb:8 Mmn22:d 75.668091 $W=0.09
Rk61 Mmp22:d RNb:8 62.000000 $W=0.08
*
*|NET n35 5.76935e-16
*|I (Mmn45:g Mmn45 g X 0 2.0875 0.5425)
*|I (Mmn53:d Mmn53 d X 0 3.7575 0.4575)
*|I (Mmp45:g Mmp45 g X 0 2.1475 1.0925)
*|I (Mmp53:d Mmp53 d X 0 3.5550 1.0075)
*|S (n35:2 2.1200 0.7250)
*|S (n35:5 3.4000 0.8500)
C66 Mmp53:d VSS 4.56562e-17
C67 Mmp45:g VSS 4.33108e-17
C68 Mmn53:d VSS 9.10524e-17
C69 Mmn45:g VSS 3.62926e-17
C70 n35:5 VSS 1.93698e-16
C71 n35:2 VSS 1.66925e-16
Rl62 n35:2 Mmn45:g 29.945055 $W=0.039
Rl63 Mmp45:g n35:2 88.461540 $W=0.039
Rk64 n35:5 n35:2 46.038689 $W=0.08
Rk65 Mmn53:d n35:5 75.495354 $W=0.08
Rk66 n35:5 Mmp53:d 62.173908 $W=0.09
*
*|NET net498 1.43857e-16
*|I (Mmn50:d Mmn50 d X 0 2.5475 0.5425)
*|I (Mmn51:s Mmn51 s X 0 3.0400 0.5425)
*|S (net498:3 2.6400 0.5300)
C72 Mmn51:s VSS 7.65386e-17
C73 Mmn50:d VSS 6.73179e-17
Rk67 Mmn50:d net498:3 75.000000 $W=0.085
Rk68 Mmn51:s net498:3 75.434769 $W=0.085
*
*|NET net0363 2.25543e-16
*|I (Mmn52:d Mmn52 d X 0 2.8450 0.5425)
*|I (Mmn53:s Mmn53 s X 0 3.4950 0.4575)
C74 Mmn53:s VSS 1.09657e-16
C75 Mmn52:d VSS 1.15886e-16
Rk69 Mmn53:s Mmn52:d 150.731812 $W=0.08
*
*|NET CKNbb 9.6512e-16
*|I (Mmn53:g Mmn53 g X 0 3.5875 0.4575)
*|I (Mmn25:g Mmn25 g X 0 5.3475 0.5025)
*|I (Mmn21:d Mmn21 d X 0 5.8200 0.5075)
*|I (Mmp40:g Mmp40 g X 0 3.7025 1.0075)
*|I (Mmp36:g Mmp36 g X 0 5.1825 1.1525)
*|I (Mmp21:d Mmp21 d X 0 5.9200 1.0175)
*|S (CKNbb:2 3.7025 0.8225)
*|S (CKNbb:4 4.2200 0.8500)
*|S (CKNbb:6 5.3850 0.6800)
*|S (CKNbb:7 5.3850 0.9450)
*|S (CKNbb:11 5.9100 0.9700)
*|S (CKNbb:12 5.4750 1.2650)
C76 Mmp21:d VSS 1.10114e-16
C77 Mmp36:g VSS 5.44493e-17
C78 Mmp40:g VSS 2.68744e-17
C79 Mmn21:d VSS 7.47055e-17
C80 Mmn25:g VSS 4.62295e-17
C81 Mmn53:g VSS 5.02167e-17
C82 CKNbb:12 VSS 1.49469e-16
C83 CKNbb:2 VSS 4.40465e-17
C84 CKNbb:4 VSS 2.14958e-16
C85 CKNbb:6 VSS 8.71189e-17
C86 CKNbb:7 VSS 1.06938e-16
Rl70 CKNbb:2 CKNbb:4 224.219421 $W=0.039
Rl71 CKNbb:2 Mmn53:g 137.260712 $W=0.039
Rl72 Mmn25:g CKNbb:6 71.155907 $W=0.039
Rl73 Mmp40:g CKNbb:2 28.079685 $W=0.039
Rl74 CKNbb:7 Mmp36:g 108.224625 $W=0.039
Rk75 CKNbb:7 CKNbb:6 0.133222 $W=0.125
Rk76 CKNbb:12 CKNbb:7 0.284163 $W=0.08
Rk77 CKNbb:12 CKNbb:4 1.153503 $W=0.08
Rk78 CKNbb:11 CKNbb:12 0.531032 $W=0.08
Rk79 Mmn21:d CKNbb:11 75.374504 $W=0.09
Rk80 Mmp21:d CKNbb:11 62.000000 $W=0.09
*
*|NET mout 5.8952e-16
*|I (Mmn40:d Mmn40 d X 0 4.0200 0.4575)
*|I (Mmn31:d Mmn31 d X 0 4.4875 0.5025)
*|I (Mmn35:g Mmn35 g X 0 5.0375 0.5025)
*|I (Mmp40:s Mmp40 s X 0 3.7950 1.0075)
*|I (Mmp32:d Mmp32 d X 0 4.7225 1.0625)
*|I (Mmp35:g Mmp35 g X 0 5.0375 1.1525)
*|S (mout:2 5.0050 0.8450)
*|S (mout:4 4.7000 0.8450)
*|S (mout:5 4.4500 0.6500)
*|S (mout:6 4.0300 0.6500)
C87 Mmp35:g VSS 5.68864e-17
C88 Mmp32:d VSS 3.59038e-17
C89 Mmp40:s VSS 6.62443e-17
C90 Mmn35:g VSS 6.99306e-17
C91 Mmn31:d VSS 2.82065e-17
C92 Mmn40:d VSS 4.14339e-17
C93 mout:6 VSS 6.83169e-17
C94 mout:5 VSS 6.01698e-17
C95 mout:4 VSS 5.49996e-17
C96 mout:2 VSS 1.07429e-16
Rl81 mout:2 Mmn35:g 87.636475 $W=0.039
Rl82 Mmp35:g mout:2 60.713398 $W=0.039
Rk83 mout:2 mout:4 45.240612 $W=0.08
Rk84 mout:4 mout:5 0.334171 $W=0.09
Rk85 mout:5 mout:6 0.268900 $W=0.08
Rk86 mout:6 Mmn40:d 75.146873 $W=0.08
Rk87 mout:5 Mmn31:d 75.102219 $W=0.09
Rk88 mout:6 Mmp40:s 62.395000 $W=0.0885
Rk89 mout:4 Mmp32:d 62.093372 $W=0.1
*
*|NET CKNb 9.92188e-16
*|I (Mmn40:g Mmn40 g X 0 3.9275 0.4575)
*|I (Mmn36:g Mmn36 g X 0 5.1425 0.5025)
*|I (Mmn21:g Mmn21 g X 0 5.9575 0.5075)
*|I (Mmn20:d Mmn20 d X 0 6.3000 0.5075)
*|I (Mmp53:g Mmp53 g X 0 3.4075 1.0075)
*|I (Mmp25:g Mmp25 g X 0 5.5275 1.1525)
*|I (Mmp21:g Mmp21 g X 0 6.0125 1.0175)
*|I (Mmp20:d Mmp20 d X 0 6.4450 1.1975)
*|S (CKNb:1 3.5600 0.7950)
*|S (CKNb:4 5.9850 0.8125)
*|S (CKNb:5 5.5275 0.8125)
*|S (CKNb:7 3.9650 0.2600)
*|S (CKNb:9 5.9850 0.7150)
*|S (CKNb:13 6.0850 0.7050)
C97 Mmp20:d VSS 9.10336e-17
C98 Mmp21:g VSS 1.72835e-17
C99 Mmp25:g VSS 3.46091e-17
C100 Mmp53:g VSS 4.61055e-17
C101 Mmn20:d VSS 5.02557e-17
C102 Mmn21:g VSS 2.84192e-17
C103 Mmn36:g VSS 1.5482e-16
C104 Mmn40:g VSS 2.78959e-17
C105 CKNb:13 VSS 9.72188e-17
C106 CKNb:5 VSS 6.92124e-17
C107 CKNb:4 VSS 1.93208e-17
C108 CKNb:1 VSS 1.51424e-16
C109 CKNb:7 VSS 1.67261e-16
C110 CKNb:9 VSS 3.73291e-17
Rl90 CKNb:4 CKNb:9 11.340462 $W=0.094
Rl91 CKNb:4 CKNb:5 159.512146 $W=0.039
Rl92 CKNb:7 Mmn40:g 32.017479 $W=0.039
Rl93 Mmn36:g CKNb:7 505.974762 $W=0.039
Rl94 CKNb:5 Mmn36:g 228.824051 $W=0.039
Rl95 CKNb:9 Mmn21:g 39.153313 $W=0.039
Rl96 CKNb:1 Mmp53:g 100.137512 $W=0.039
Rl97 CKNb:5 Mmp25:g 82.373802 $W=0.039
Rl98 Mmp21:g CKNb:4 38.025547 $W=0.039
Rk99 CKNb:7 CKNb:1 45.514111 $W=0.1
Rk100 CKNb:13 CKNb:9 45.042408 $W=0.1
Rk101 CKNb:13 Mmn20:d 75.288002 $W=0.09
Rk102 Mmp20:d CKNb:13 62.645767 $W=0.08
*
*|NET net521 1.55603e-16
*|I (Mmn31:s Mmn31 s X 0 4.2700 0.5025)
*|I (Mmn32:s Mmn32 s X 0 4.7225 0.5025)
C111 Mmn32:s VSS 7.28116e-17
C112 Mmn31:s VSS 8.27919e-17
Rk103 Mmn32:s Mmn31:s 150.513123 $W=0.09
*
*|NET n20 3.94729e-16
*|I (Mmn32:g Mmn32 g X 0 4.6125 0.5025)
*|I (Mmn36:d Mmn36 d X 0 5.2450 0.5025)
*|I (Mmp32:g Mmp32 g X 0 4.6125 1.0625)
*|I (Mmp36:d Mmp36 d X 0 5.3550 1.1525)
*|S (n20:2 4.6400 0.6850)
*|S (n20:5 5.1950 0.6850)
*|S (n20:7 5.2450 0.4900)
C113 Mmp36:d VSS 6.4746e-17
C114 Mmp32:g VSS 5.42891e-17
C115 Mmn36:d VSS 3.4718e-17
C116 Mmn32:g VSS 3.76428e-17
C117 n20:5 VSS 8.83695e-17
C118 n20:2 VSS 1.14964e-16
Rl104 n20:2 Mmn32:g 29.537926 $W=0.039
Rl105 Mmp32:g n20:2 91.076385 $W=0.039
Rk106 n20:5 n20:2 45.398041 $W=0.08
Rk107 n20:5 n20:7 0.139629 $W=0.09
Rk108 Mmn36:d n20:7 75.000000 $W=0.09
Rk109 Mmp36:d n20:5 62.374596 $W=0.08
*
*|NET net582 0
*|I (Mmn35:d Mmn35 d X 0 5.0900 0.5025)
*|I (Mmn36:s Mmn36 s X 0 5.0900 0.5025)
Rmw110 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET Db 6.41519e-16
*|I (Mmn25:d Mmn25 d X 0 5.4400 0.5025)
*|I (Mmn12:d Mmn12 d X 0 7.2150 0.5075)
*|I (Mmp25:s Mmp25 s X 0 5.6375 1.1525)
*|I (Mmp12:d Mmp12 d X 0 7.0850 1.1975)
*|S (Db:2 6.9550 0.6850)
*|S (Db:4 5.4500 0.4900)
C119 Mmp12:d VSS 6.97374e-17
C120 Mmp25:s VSS 1.12843e-16
C121 Mmn12:d VSS 4.28653e-17
C122 Mmn25:d VSS 1.96946e-16
C123 Db:2 VSS 2.19128e-16
Rk111 Db:2 Db:4 1.366750 $W=0.08
Rk112 Mmn25:d Db:4 75.000000 $W=0.08
Rk113 Mmn12:d Db:2 75.303688 $W=0.09
Rk114 Db:4 Mmp25:s 62.564781 $W=0.08
Rk115 Db:2 Mmp12:d 62.449219 $W=0.09
*
*|NET net546 5.41027e-18
*|I (Mmn11:d Mmn11 d X 0 6.9275 0.5075)
*|I (Mmn12:s Mmn12 s X 0 6.9275 0.5075)
C124 Mmn11:d VSS 5.41027e-18
Rmw116 Mmn12:s Mmn11:d 0.001000 $W=1
*
*|NET SEb 4.24531e-16
*|I (Mmn12:g Mmn12 g X 0 7.1125 0.5075)
*|I (Mmn10:d Mmn10 d X 0 7.7300 0.5075)
*|I (Mmp14:g Mmp14 g X 0 7.2575 1.1975)
*|I (Mmp10:d Mmp10 d X 0 7.8450 1.1975)
*|S (SEb:2 7.2850 0.9800)
*|S (SEb:6 7.8950 1.2450)
C125 Mmp10:d VSS 1.07342e-16
C126 Mmp14:g VSS 2.81075e-17
C127 Mmn10:d VSS 7.86725e-17
C128 Mmn12:g VSS 5.34791e-17
C129 SEb:2 VSS 1.56931e-16
Rl117 SEb:2 Mmn12:g 179.103577 $W=0.039
Rl118 Mmp14:g SEb:2 29.537928 $W=0.039
Rk119 SEb:6 SEb:2 45.573311 $W=0.09
Rk120 Mmn10:d SEb:6 75.632980 $W=0.09
Rk121 Mmp10:d SEb:6 62.000000 $W=0.09
*
*|NET net538 0
*|I (Mmn14:s Mmn14 s X 0 7.3700 0.5075)
*|I (Mmn13:d Mmn13 d X 0 7.3700 0.5075)
Rmw122 Mmn13:d Mmn14:s 0.001000 $W=1
*
*|NET net566 2.07123e-16
*|I (Mmp50:d Mmp50 d X 0 2.5400 1.0925)
*|I (Mmp53:s Mmp53 s X 0 3.2675 1.0075)
C130 Mmp53:s VSS 1.03595e-16
C131 Mmp50:d VSS 1.03528e-16
Rk123 Mmp53:s Mmp50:d 124.387306 $W=0.1
*
*|NET net414 4.45039e-18
*|I (Mmp52:s Mmp52 s X 0 2.7575 1.0925)
*|I (Mmp51:d Mmp51 d X 0 2.7575 1.0925)
C132 Mmp52:s VSS 4.45039e-18
Rmw124 Mmp51:d Mmp52:s 0.001000 $W=1
*
*|NET net478 3.50425e-18
*|I (Mmp31:d Mmp31 d X 0 4.4875 1.0625)
*|I (Mmp32:s Mmp32 s X 0 4.4875 1.0625)
C133 Mmp31:d VSS 3.50425e-18
Rmw125 Mmp32:s Mmp31:d 0.001000 $W=1
*
*|NET net486 1.12332e-18
*|I (Mmp35:d Mmp35 d X 0 5.1100 1.1525)
*|I (Mmp36:s Mmp36 s X 0 5.1100 1.1525)
C134 Mmp35:d VSS 1.12332e-18
Rmw126 Mmp36:s Mmp35:d 0.001000 $W=1
*
*|NET net461 0
*|I (Mmp11:d Mmp11 d X 0 6.8275 1.1975)
*|I (Mmp12:s Mmp12 s X 0 6.8275 1.1975)
Rmw127 Mmp12:s Mmp11:d 0.001000 $W=1
*
*|NET net453 4.7683e-18
*|I (Mmp14:s Mmp14 s X 0 7.3525 1.1975)
*|I (Mmp13:d Mmp13 d X 0 7.3525 1.1975)
C135 Mmp14:s VSS 4.7683e-18
Rmw128 Mmp13:d Mmp14:s 0.001000 $W=1
*
*Instance Section
*
Mmn57	Mmn57:d	Mmn57:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0232P	PD=0.62U	PS=0.61U
+ fw=1.45e-07 sa=1.65e-07 sb=3.45e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn56	Mmn56:d	Mmn56:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=3.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55	Mmn55:d	Mmn55:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02537P	PD=0.57U	PS=0.64U
+ fw=1.45e-07 sa=1.4e-07 sb=4.6e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn22	Mmn22:d	Mmn22:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0348P	AS=0.02538P	PD=0.77U	PS=0.64U
+ fw=1.45e-07 sa=3.6e-07 sb=2.4e-07 sca=10.0732 scb=0.00911402 scc=0.000253284
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02392P	AS=0.0787P	PD=0.62U	PS=1.51U
+ fw=1.45e-07 sa=1.65e-07 sb=1e-06 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.05002P	AS=0.0787P	PD=0.98U	PS=1.51U
+ fw=1.45e-07 sa=4.3e-07 sb=7.35e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn52	Mmn52:d	Mmn52:g	Mmn50:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.05002P	PD=0.61U	PS=0.98U
+ fw=1.45e-07 sa=8.2e-07 sb=3.45e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn51	Mmn52:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0203P	PD=0.61U	PS=0.57U
+ fw=1.45e-07 sa=1.025e-06 sb=1.4e-07 sca=16.7245 scb=0.0178071 scc=0.00133148
Mmn53	Mmn53:d	Mmn53:g	Mmn53:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04277P	AS=0.0203P	PD=0.88U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=4.8e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn40	Mmn40:d	Mmn40:g	Mmn53:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04277P	PD=0.57U	PS=0.88U
+ fw=1.45e-07 sa=4.8e-07 sb=1.4e-07 sca=10.7143 scb=0.0101371 scc=0.000327098
Mmn31	Mmn31:d	Mmn31:g	Mmn31:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02972P	AS=0.0203P	PD=0.7U	PS=0.57U
+ fw=1.45e-07 sa=1.4e-07 sb=1.125e-06 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn32	Mmn31:d	Mmn32:g	Mmn32:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02972P	AS=0.02537P	PD=0.7U	PS=0.64U
+ fw=1.45e-07 sa=3.9e-07 sb=8.75e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn30	Mmn32:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.02537P	AS=0.0232P	PD=0.64U	PS=0.61U
+ fw=1.45e-07 sa=6.1e-07 sb=6.55e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.0232P	PD=0.41U	PS=0.61U
+ fw=1.45e-07 sa=8.15e-07 sb=4.5e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=9.2e-07 sb=3.45e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn25	Mmn25:d	Mmn25:g	Mmn36:d	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.0232P	PD=0.57U	PS=0.61U
+ fw=1.45e-07 sa=1.125e-06 sb=1.4e-07 sca=13.253 scb=0.0137915 scc=0.000695334
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.03335P	AS=0.06725P	PD=0.75U	PS=1.34U
+ fw=1.45e-07 sa=2.3e-07 sb=1.7e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.04422P	PD=0.57U	PS=0.9U
+ fw=1.45e-07 sa=1.4e-07 sb=1.385e-06 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn11	Mmn11:d	Mmn11:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04713P	AS=0.04422P	PD=0.94U	PS=0.9U
+ fw=1.45e-07 sa=4.9e-07 sb=1.035e-06 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn12	Mmn12:d	Mmn12:g	Mmn12:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.04713P	PD=0.61U	PS=0.94U
+ fw=1.45e-07 sa=8.6e-07 sb=6.65e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn14	Mmn12:d	Mmn14:g	Mmn14:s	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0232P	AS=0.0087P	PD=0.61U	PS=0.41U
+ fw=1.45e-07 sa=1.065e-06 sb=4.6e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn13	Mmn13:d	Mmn13:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0087P	AS=0.02465P	PD=0.41U	PS=0.63U
+ fw=1.45e-07 sa=1.17e-06 sb=3.55e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmn10	Mmn10:d	Mmn10:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.02465P	PD=0.57U	PS=0.63U
+ fw=1.45e-07 sa=1.385e-06 sb=1.4e-07 sca=13.6097 scb=0.014254 scc=0.000755054
Mmp57	Mmp57:d	Mmp57:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03548P	AS=0.0344P	PD=0.76U	PS=0.75U
+ fw=2.15e-07 sa=1.65e-07 sb=3.45e-07 sca=49.1385 scb=0.0321853 scc=0.00591609
Mmp56	Mmp56:d	Mmp56:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=3.7e-07 sb=1.4e-07 sca=46.9517 scb=0.029008 scc=0.00588492
Mmp55	Mmp55:d	Mmp55:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.03762P	PD=0.71U	PS=0.78U
+ fw=2.15e-07 sa=1.4e-07 sb=3.6e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp22	Mmp22:d	Mmp22:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.03762P	PD=0.71U	PS=0.78U
+ fw=2.15e-07 sa=3.6e-07 sb=1.4e-07 sca=11.1138 scb=0.00912362 scc=0.000187967
Mmp45	Mmp45:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0989P	PD=0.71U	PS=1.73U
+ fw=2.15e-07 sa=1.4e-07 sb=8.9e-07 sca=19.7413 scb=0.019281 scc=0.00179464
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.0989P	PD=0.85U	PS=1.73U
+ fw=2.15e-07 sa=4.05e-07 sb=6.25e-07 sca=19.7413 scb=0.019281 scc=0.00179464
Mmp52	Mmp50:d	Mmp52:g	Mmp52:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04515P	AS=0.02902P	PD=0.85U	PS=0.7U
+ fw=2.15e-07 sa=6.6e-07 sb=3.7e-07 sca=19.7413 scb=0.019281 scc=0.00179464
Mmp51	Mmp51:d	Mmp51:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02902P	AS=0.09245P	PD=0.7U	PS=1.67U
+ fw=2.15e-07 sa=8.4e-07 sb=1.9e-07 sca=19.7413 scb=0.019281 scc=0.00179464
Mmp53	Mmp53:d	Mmp53:g	Mmp53:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05375P	AS=0.05053P	PD=0.93U	PS=0.9U
+ fw=2.15e-07 sa=2.35e-07 sb=4.35e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp40	Mmp53:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.05375P	AS=0.0301P	PD=0.93U	PS=0.71U
+ fw=2.15e-07 sa=5.3e-07 sb=1.4e-07 sca=45.7906 scb=0.0283307 scc=0.00588417
Mmp31	Mmp31:d	Mmp31:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.04408P	AS=0.09805P	PD=0.84U	PS=2.11U
+ fw=2.15e-07 sa=3.1e-07 sb=1.01767e-06 sca=24.8095 scb=0.0224988 scc=0.00280688
Mmp32	Mmp32:d	Mmp32:g	Mmp32:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03763P	AS=0.04408P	PD=0.78U	PS=0.84U
+ fw=2.15e-07 sa=5.6e-07 sb=7.67674e-07 sca=24.8095 scb=0.0224988 scc=0.00280688
Mmp30	Mmp32:d	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03763P	AS=0.0649P	PD=0.78U	PS=1.81U
+ fw=2.15e-07 sa=7.8e-07 sb=5.47674e-07 sca=24.8095 scb=0.0224988 scc=0.00280688
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0215P	AS=0.0649P	PD=0.63U	PS=1.81U
+ fw=2.15e-07 sa=6.14535e-07 sb=6.65e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp36	Mmp36:d	Mmp36:g	Mmp36:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0645P	AS=0.0215P	PD=1.03U	PS=0.63U
+ fw=2.15e-07 sa=7.59535e-07 sb=5.2e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp25	Mmp36:d	Mmp25:g	Mmp25:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0645P	AS=0.03763P	PD=1.03U	PS=0.78U
+ fw=2.15e-07 sa=1.10453e-06 sb=1.75e-07 sca=14.2498 scb=0.0138057 scc=0.00069487
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05515P	PD=0.71U	PS=1.78U
+ fw=2.15e-07 sa=1.4e-07 sb=1e-07 sca=39.8855 scb=0.0273598 scc=0.00519679
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0344P	PD=0.71U	PS=0.75U
+ fw=2.15e-07 sa=1.4e-07 sb=1.395e-06 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp11	Mmp11:d	Mmp11:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.02688P	AS=0.0344P	PD=0.68U	PS=0.75U
+ fw=2.15e-07 sa=3.45e-07 sb=1.19e-06 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp12	Mmp12:d	Mmp12:g	Mmp12:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0645P	AS=0.02688P	PD=1.03U	PS=0.68U
+ fw=2.15e-07 sa=5.15e-07 sb=1.02e-06 sca=12.1244 scb=0.0107968 scc=0.000332109
Mmp14	Mmp12:d	Mmp14:g	Mmp14:s	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0645P	AS=0.03118P	PD=1.03U	PS=0.72U
+ fw=2.15e-07 sa=8.6e-07 sb=6.75e-07 sca=12.7214 scb=0.0110237 scc=0.000332196
Mmp13	Mmp13:d	Mmp13:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.03118P	AS=0.0665P	PD=0.72U	PS=1.19U
+ fw=2.15e-07 sa=1.05e-06 sb=4.85e-07 sca=13.8366 scb=0.012107 scc=0.000335122
Mmp10	Mmp10:d	Mmp10:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0473P	AS=0.0665P	PD=0.87U	PS=1.19U
+ fw=2.15e-07 sa=1.315e-06 sb=2.2e-07 sca=19.4835 scb=0.0215572 scc=0.000673289
.ENDS
.END
